datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:13],32.2168
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:32][O:33],199.11656
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])[H:12])([H:9])([H:10])[H:11],8.40984
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]([S:7][H:9])[H:8]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3].[S:6][S:7][H:9],3.3472
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:21](=[C:22]([H:24])[H:25])[H:23])[H:11],11.4223
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:4])[H:5],212.262688
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31],45.6893
[C:0](=[N:1][O:2][H:5])([H:3])[H:4].[N:6]([H:7])[H:8]>>[C:0](=[N:1][O:2])([H:3])[H:4].[H:5][N:6]([H:7])[H:8],8.03328
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([C:20]([H:23])([H:24])[H:25])[C:21]([H:26])([H:27])[H:28])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:22])([C:20]([H:23])([H:24])[H:25])[C:21]([H:26])([H:27])[H:28])[H:7],30.4177
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][O:21],8.811504
[C:0]1([H:10])=[C:1]([H:11])[C:2]([C:3]2([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]2[H:17])([H:12])[C:8]([H:18])=[C:9]1[H:19]>>[C:0]1([H:10])=[C:9]([H:19])[C:8]([H:12])([H:18])[C:2]([C:3]2([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]2[H:17])=[C:1]1[H:11],95.8136
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]=[C:13]([H:16])[H:17])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:14])[H:6].[C:11](=[C:12]=[C:13]([H:16])[H:17])[H:15],61.9232
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:18])([H:19])[H:20])[H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([C:12]([H:18])([H:19])[H:20])[H:17])[H:16])[H:4],42.0492
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:6])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],83.8892
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([O:1][C:6](=[C:7]([H:9])[H:10])[H:8])([H:2])([H:3])[H:4].[H:5],137.831
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8][O:9])([H:10])([H:11])[H:12]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:9][O:8][C:7]([H:10])([H:11])[H:12],49.87328
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([C:5]([H:17])([H:18])[H:19])=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],143.679
